US06331556B2
7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (4-chloro-2-methyl-2H-pyrazol-3-yl)-amide
Starting from 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (0.14 g) and 4-chloro-2-methyl-2H-pyrazol-3-ylamine (78 mg). Purification by column chromatography on silica eluting with 50%-75% ethyl acetate in hexane afforded the title compound as an off white solid (34 mg).

reactant | 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid | 0.14 g | COC=1C=CC(=C2C=C(OC21)COC)C(=O)O | C12H12O5
reactant | 4-chloro-2-methyl-2H-pyrazol-3-ylamine | 78 mg | ClC1=C(N(N=C1)C)N | C4H6ClN3
product | 7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (4-chloro-2-methyl-2H-pyrazol-3-yl)-amide | ClC1=C(N(N=C1)C)NC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC | C16H16ClN3O4
